US07504408B2
ii) Preparation of N-(5-chloro-7-ethynyl-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
A solution of sodium bis(trimethylsilyl)amide (0.91 ml) in tetrahydrofuran (1.0M, 0.91 mmol) was added over 5 min. to a stirred mixture of {5-chloro-7-[(trimethylsilyl)ethynyl]-1,3-benzodioxol-4-yl}amine (0.122 g) and 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (0.140 g) in DMF (4 ml) cooled to 0° C. under a nitrogen atmosphere and the mixture was stirred for 1 hr at ambient temperature. The mixture was diluted with saturated aqueous ammonium chloride (40 ml) and extracted with ethyl acetate (3×20 ml). The organic extracts were washed with brine (20 ml), dried over sodium sulphate and then evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methanol and dichloromethane as eluent. There was thus obtained the title compound as a solid (0.120 g). NMR Spectrum: (DMSOd6) 1.95 (m, 2H), 2.37 (m, 4H), 2.45 (t, 2H), 3.57 (m, 4H), 3.92 (s, 3H), 4.17 (t, 2H), 4.50 (s, 1H), 6.15 (s, 2H), 7.15 (s, 1H), 7.17 (s, 1H), 7.82 (s, 1H), 8.32 (s, 1H), 9.50 (s, 1H); Mass Spectrum: M+H+ 497 and 499.

reactant | sodium bis(trimethylsilyl)amide | 0.91 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 0.91 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | {5-chloro-7-[(trimethylsilyl)ethynyl]-1,3-benzodioxol-4-yl}amine | 0.122 g | ClC1=C(C2=C(OCO2)C(=C1)C#C[Si](C)(C)C)N | C12H14ClNO2Si
reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 0.140 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 40 ml | [Cl-].[NH4+]
product | N-(5-chloro-7-ethynyl-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 0.120 g | ClC1=C(C2=C(OCO2)C(=C1)C#C)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C25H25ClN4O5
